US05624948
To a solution of 2-[4-[(E)-2-ethoxycarbonylvinyl]phenyl]ethyl bromide (2.10 g) in diethyl ether (20 ml) was added 1,5-diazabicyclo[3,3,0]octane (0.89 g), and the mixture was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure. To a solution of the residue in ethanol (30 ml) was added a 10% palladium on activated carbon (0.44 g), and the mixture was stirred at room temperature for 5 hours under an atmosphere of hydrogen. The catalyst was removed by filtration through a celite column, and the filtrate was concentrated under reduced pressure. The residue was quenched with an aqueous 1N-NaOH solution (20 ml), and the mixture was extracted with methylene chloride (30 ml). The extract was dried over anhydrous MgSO4, and concentrated to dryness under reduced pressure to give 1-[2-[4-(2-ethoxycarbonylethyl)phenyl]ethyl]-1,5-diazacyclooctane (2.46 g) as a colorless oily liquid.

reactant | 2-[4-[(E)-2-ethoxycarbonylvinyl]phenyl]ethyl bromide | 2.10 g | C(C)OC(=O)/C=C/C1=CC=C(C=C1)CCBr | C13H15BrO2
reactant | 1,5-diazabicyclo[3,3,0]octane | 0.89 g | N12CCCN2CCC1 | C6H12N2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-[2-[4-(2-ethoxycarbonylethyl)phenyl]ethyl]-1,5-diazacyclooctane | 2.46 g | C(C)OC(=O)CCC1=CC=C(C=C1)CCN1CCCNCCC1 | C19H30N2O2
